US05051422
N-[[4-(3-Aminophenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide
In a manner similar to Preparation 3, react 4-(3-aminophenyl)-1-(phenylmethyl)-2-piperazinemethanamine (4.8 g, 16 mmol) with 4-[(methylsulfonyl)amino]benzoyl chloride (3.8 g, 16 mmol) to obtain the title compound.

reactant | 4-(3-aminophenyl)-1-(phenylmethyl)-2-piperazinemethanamine | 16 mmol, 4.8 g | NC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)CN | C18H24N4
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 16 mmol, 3.8 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[[4-(3-Aminophenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide | NC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C26H31N5O3S
